US04372956
(c) N-(2,2-dimethoxyethyl)-2-nitro-5-methyl-benzylamine (IV)
A solution of 43 g of 5-methyl-2-nitrobenzyl chloride in 200 ml of ethanol is added drop-wise to a solution of 40 g of aminoacetaldehyde dimethylacetal and 40 g of triethylamine in 300 ml of ethanol at reflux temperature, and the solution is heated for 18 hours at reflux. It is then evaporated in a vacuum until dry and the residue is dissolved in ethyl acetate, and extracted several times with water. After the organic phase is dried and evaporated, the heading compound remains as a reddish oil.

reactant | 5-methyl-2-nitrobenzyl chloride | 43 g | CC=1C=CC(=C(CCl)C1)[N+](=O)[O-] | C8H8ClNO2
reactant | aminoacetaldehyde dimethylacetal | 40 g | COC(CN)OC | C4H11NO2
reactant | triethylamine | 40 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | N-(2,2-dimethoxyethyl)-2-nitro-5-methyl-benzylamine | COC(CNCC1=C(C=CC(=C1)C)[N+](=O)[O-])OC | C12H18N2O4
